US07132428B2
b) 3-Methyl-5-(3-methyl-phenyl)-1H-pyrazolo[4,3-c]isoquinoline (Z)
The preparation took place in analogy to example 34 (D) using 404 mg of 3-methyl-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide, except 10 ml of phosphorous oxychloride was used and the reaction was stirred for 4 hrs. Trituration of the residue with dichloromethane/methanol (95/5) gave the title compound as an off white solid.

reactant | 3-methyl-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide | 404 mg | CC=1C=C(C(=O)NC=2C(=NNC2C2=CC=CC=C2)C)C=CC1 | C18H17N3O
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane methanol | ClCCl.CO
product | 3-Methyl-5-(3-methyl-phenyl)-1H-pyrazolo[4,3-c]isoquinoline | CC1=NNC2=C1N=C(C=1C=CC=CC21)C2=CC(=CC=C2)C | C18H15N3
